US05475106
3-Methylphenyl isocyanate (0.6 g) is added at a temperature in the region of 20° C. to a solution of tert-butyl 2-[2-amino-N-(3-chlorophenyl)acetamido]-acetate (1.25 g) in anhydrous tetrahydrofuran (20 cc). The solution obtained is stirred for 4 hours at a temperature in the region of 20° C and then concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residual oil is purified by chromatography on silica (0.063-0.2 mm) (150 g) contained in a column 2 cm in diameter [eluent: ethyl cyclohexaneacetane [sic] (75:25 by volume)], collecting 20 cc fractions. The fractions containing only the desired product are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After crystallisation in diisopropyl ether, tert-butyl 2-{N-(3-chlorophenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate (0.8 g), m.p. 110° C. is obtained

reactant | 3-Methylphenyl isocyanate | 0.6 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
reactant | tert-butyl 2-[2-amino-N-(3-chlorophenyl)acetamido]-acetate | 1.25 g | NCC(=O)N(C1=CC(=CC=C1)Cl)CC(=O)OC(C)(C)C | C14H19ClN2O3
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | tert-butyl 2-{N-(3-chlorophenyl)-2-[3-(3-methylphenyl)ureido]acetamido}acetate | 0.8 g | ClC=1C=C(C=CC1)N(C(CNC(=O)NC1=CC(=CC=C1)C)=O)CC(=O)OC(C)(C)C | C22H26ClN3O4
